US07968570B2
A mixture of 3-(4-bromophenyl)-propylamine (6.21 g, 29 mmol), 2-bromomethyl-benzoic acid methyl ester (6.57 g, 29 mmol), and K2CO3 (6.91 g, 50 mmol) in toluene (100 mL) was heated at reflux with stirring for 1.5 h. Workup and silica gel column chromatography using a gradient of hexanes to 50% ethyl acetate in hexanes afforded 2-[3-(4-bromophenyl)-propyl]-2,3-dihydroisoindol-1-one (7.24 g, 88%). GC/MS gave: m/z (rel.int.) 331 (M+, 9), 329 (M+, 9), 147 (100), 146 (54) 119 (34), and 91 (33). 1H NMR (300 MHz, CDCl3): δ 1.97 (dt, 2H), 2.64 (t, 2H), 3.66 (t, 2H), 4.35 (s, 2H), 7.08 (dd, 2H), 7.38 (dd, 2H), 7.46 (m, 2H), 7.51 (dt, 1H), 7.85 (d, 1H). 13C NMR (300 MHz, CDCl3): δ 29.9, 32.5, 41.9, 49.9, 119.7, 122.7, 123.6, 128.0, 130.2 (2C), 131.2, 131.4 (2C) 132.9, 140.3, 141.1, 168.5.

reactant | 3-(4-bromophenyl)-propylamine | 29 mmol, 6.21 g | BrC1=CC=C(C=C1)CCCN | C9H12BrN
reactant | 2-bromomethyl-benzoic acid methyl ester | 29 mmol, 6.57 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | K2CO3 | 50 mmol, 6.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(4-bromophenyl)-propyl]-2,3-dihydroisoindol-1-one | 7.24 g, 88% | BrC1=CC=C(C=C1)CCCN1C(C2=CC=CC=C2C1)=O | C17H16BrNO
